US08609731B2
2-[(S)-6-(4-Methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-2H-isoquinolin-1-one
A mixture of 6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]isochromen-1-one (50 mg), NMP (0.2 ml) and (S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydro-naphthalen-2-ylamine (55 mg) was heated to 220° C. in a microwave reactor for 3×30 minutes. The cooled reaction mixture was purified by preparative HPLC. The product was thus obtained with the molecular weight of 502.66 (C31H38N2O4); MS (ESI): 503 (M+H+).

reactant | 6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]isochromen-1-one | 50 mg | O1[C@@H](CCC1)COC=1C=C2C=COC(C2=CC1)=O | C14H14O4
reactant | (S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydro-naphthalen-2-ylamine | 55 mg | COC1CCN(CC1)CC=1C=C2CC[C@@H](CC2=CC1)N | C17H26N2O
solvent | NMP | 0.2 ml | CN1CCCC1=O | C5H9NO
product | 2-[(S)-6-(4-Methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-2H-isoquinolin-1-one | COC1CCN(CC1)CC=1C=C2CC[C@@H](CC2=CC1)N1C(C2=CC=C(C=C2C=C1)OC[C@H]1OCCC1)=O | C31H38N2O4
